US05342846
5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl)azetidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A suspension of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (75 mg, 0.25 mmol) and 100 mg (0.5 mmol) of 3-(1,2,4-triazol -1-yl)azetidine hydrochloride in 3 ml of dry pyridine, in the presence of 152 mg (1 mmol) of DBU was heated under nitrogen at 75° C. overnight. The suspension was then evaporated to dryness and to the residue water was added and solid collected, washed with water and dried to give 95 mg (94%) of the desired product as a yellow solid. m.p. 293°-295° C. 1H NMR (TFA) δ: 9.79 (s, 1H), 9.1 (s, 1H), 8.88 (s, 1H), 6.12-5.88 (m, 1H), 5.45-5.05 (m, 4H), 4.44-4.16 (m, 1H), 1.53-1.18 (m, 4H). Anal. calcd. for C18H16F2N6O3 : C, 53.74; H, 4.01; N, 20.88. Found: C, 53.60; H, 4.08; N, 20.91.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 mmol, 75 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-(1,2,4-triazol -1-yl)azetidine hydrochloride | 0.5 mmol, 100 mg | Cl.N1(N=CN=C1)C1CNC1
reactant | DBU | 1 mmol, 152 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(1,2,4-triazol-1-yl)azetidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 95 mg, 94% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C1)N1N=CN=C1)F)C1CC1)C(=O)O)=O | C18H16F2N6O3
